US05112988
A 0.8N solution (8.8 cc) of ammonia in dichloromethane is added to a stirred suspension, cooled to -20° C., of (3aRS,7aRS)-2-(1-ethoxy-2-phenylethylidene)-4-oxo-7,7-diphenylperhydroisoindolium tetrafluoroborate (3.75 g) in anhydrous dichloromethane (30 cc). The reaction mixture is allowed to return to room temperature and stirring is continued for 5 hours. The reaction mixture is treated with 10% strength aqueous potassium carbonate solution (30 cc). The precipitate present is removed by filtration and the organic phase is then washed with distilled water (15 cc) and with saturated aqueous sodium chloride solution (15 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is recrystallized in acetonitrile (22 cc). The crystals obtained are drained and dried. (3aRS,7aRS)-2-(α-Iminophenethyl)-7,7-diphenylperhydro-4-isoindolone (1.3 g), m.p. 202° C., is obtained.

reactant | ammonia | N | H3N
reactant | (3aRS,7aRS)-2-(1-ethoxy-2-phenylethylidene)-4-oxo-7,7-diphenylperhydroisoindolium tetrafluoroborate | 3.75 g | F[B-](F)(F)F.C(C)OC(CC1=CC=CC=C1)=[N+]1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 30 cc | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-(α-Iminophenethyl)-7,7-diphenylperhydro-4-isoindolone | 1.3 g | N=C(CC1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N2O
